US06982278B2
4-[2-(2-Phenyloxazol-4-yl)ethoxy]phenol (3.7 g, 13.0 mmol) and cesium carbonate (4.71 g, 14.5 mmol) were suspended in anhydrous DMF (100 mL) and treated with dropwise addition of ethyl 2-bromoisobutyrate (2.54 g, 13.0 mmol, 1.93 mL). The reaction mixture was stirred at ambient temperature for 24 h and then partitioned between ether (200 mL) and 1.0 N HCl (200 mL). The organic layer was washed with water (100 mL), dried over MgSO4 and concentrated to a brown oil, which was purified by gradient column chromatography (200 mL SiO2, 100% hexanes to 20% EtOAc/hexanes) to provide 2-methyl-2-{4-[2-(2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid, ethyl ester (2.54 g, 50%) as a colorless, viscous oil: Rf=0.5 in 20% EtOAc/hexanes; 1H NMR (250 MHz, CDCl3) δ 7.96-8.02 (m, 2H), 7.37-7.46 (m, 3H), 6.81 (s, 4H), 4.32 (q, 2H), 4.20 (t, 2H), 3.03 (t, 2H), 1.52 (s, 6H), 1.27 (t, 3H).

reactant | 4-[2-(2-Phenyloxazol-4-yl)ethoxy]phenol | 13.0 mmol, 3.7 g | C1(=CC=CC=C1)C=1OC=C(N1)CCOC1=CC=C(C=C1)O | C17H15NO3
reactant | cesium carbonate | 14.5 mmol, 4.71 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 2-bromoisobutyrate | 13.0 mmol, 1.93 mL, 2.54 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-methyl-2-{4-[2-(2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid, ethyl ester | 2.54 g, 50% | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1)C1=CC=CC=C1 | C23H25NO5
